US04603204
7-[3-[4-(p-fluorobenzoyl)-piperidino]-propyl]-theophylline (Sgd 144-80)
10.2 g 4-(p-fluorobenzoyl)-piperidine and 16.5 g 7-(chloropropyl)-theophylline are carefully mixed in the solid state and heated to 100° C. in a round flask in an oil bath. The mixture at first results in a clear melt, subsequently begins to crystallize and then changes into a solid mass. It is allowed to cool after 10 minutes, dissolved in ethyl acetate and 2n hydrochloric acid is added, whereby a dark oil separates in the organic phase, crystallizing on standing overnight. By recrystallizaing with 100 ml carbon tetrachloride, an intially oily then crystallizing substance is obtained, 7.4 g of the product with an mp of 114° to 119° C. (yield: 43.5%)

reactant | 4-(p-fluorobenzoyl)-piperidine | 10.2 g | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
reactant | 7-(chloropropyl)-theophylline | 16.5 g | ClCCCN1C=NC=2N(C(N(C)C(C12)=O)=O)C | C10H13ClN4O2
product | 7-[3-[4-(p-fluorobenzoyl)-piperidino]-propyl]-theophylline | yield: 43.5% | FC1=CC=C(C(=O)C2CCN(CC2)CCCN2C=NC=3N(C(N(C)C(C23)=O)=O)C)C=C1 | C22H26FN5O3
